US06642250B2
Methyl 4-(pyridin-4-yl)butanoate
A mixture of diethyl 2-(pyridin-4-yl)ethylmalonate (2.4 g, 0.009 mol) and 30 ml of conc. hydrochloric acid was heated at 100° C. for 15 hours and an excess amount of hydrochloric acid was then evaporated under reduced pressure. A mixture of the resultant residue and 10% hydrochloric acid-methanol solution was heated under reflux, evaporated, neutralized with saturated aqueous sodium hydrogen carbonate, and extracted with ethyl acetate. The extract was treated according to conventional techniques. Evaporation of solvent yielded the title compound, methyl 4-(pyridin-4-yl)butanoate, as an oil (0.62 g, 39%).

reactant | diethyl 2-(pyridin-4-yl)ethylmalonate | 0.009 mol, 2.4 g | N1=CC=C(C=C1)CCC(C(=O)OCC)C(=O)OCC | C14H19NO4
solvent | hydrochloric acid | 30 ml | Cl | ClH
product | methyl 4-(pyridin-4-yl)butanoate | N1=CC=C(C=C1)CCCC(=O)OC | C10H13NO2
